US04204991
8.5 g of t-butoxycarbonylisoleucylhistidylprolylserine methyl ester is dissolved in 51 ml of dioxane. To this solution is added 25.5 ml of 6 N hydrochloric acid in dioxane. The reaction is allowed to stand for ten minutes and the solvent is removed under vacuum to afford isoleucylhistidylprolylserine methyl ester hydrochloride.

reactant | t-butoxycarbonylisoleucylhistidylprolylserine methyl ester | 8.5 g | COC([C@@H](NC([C@H]1N(CCC1)C([C@@H](NC([C@@H](NC(=O)OC(C)(C)C)[C@@H](C)CC)=O)CC1=CNC=N1)=O)=O)CO)=O | C26H42N6O8
reactant | hydrochloric acid | 6 N, 25.5 ml | Cl | ClH
solvent | dioxane | 51 ml | O1CCOCC1 | C4H8O2
product | isoleucylhistidylprolylserine methyl ester hydrochloride | Cl.COC([C@@H](NC([C@H]1N(CCC1)C([C@@H](NC([C@@H](N)[C@@H](C)CC)=O)CC1=CNC=N1)=O)=O)CO)=O | InChI=1S/C21H34N6O6.ClH/c1-4-12(2)17(22)19(30)25-14(8-13-9-23-11-24-13)20(31)27-7-5-6-16(27)18(29)26-15(10-28)21(32)33-3;/h9,11-12,14-17,28H,4-8,10,22H2,1-3H3,(H,23,24)(H,25,30)(H,26,29);1H/t12-,14-,15-,16-,17-;/m0./s1
